US07064201B2
A solution of 5-(1,1-dimethyl-allyl)-3H-imidazole-4-carboxylic acid ethyl ester (3.13 g, 15.0 mmol) in THF (60 ml) was added dropwise to a suspension of lithium aluminium hydride (95% suspension, 1.00 g, 25.0 mmol) in THF (40 ml) and the mixture was stirred at room temperature for 4 h. Water was added until the evolution of gas ceased, the mixture was stirred for 10 min, then was filtered through a sintered funnel. The precipitate was washed with THF, then with methanol, the filtrate and washings were combined, evaporated, then freeze-dried to afford [5-(1,1-dimethyl-allyl)-3H-imidazol-4-yl]-methanol (2.56 g, 102%). Residual water was removed by azeotroping with chloroform prior to further reaction. (See Hayashi et al., J. Org. Chem., 65:8402–8405 (2000)).

reactant | 5-(1,1-dimethyl-allyl)-3H-imidazole-4-carboxylic acid ethyl ester | 15.0 mmol, 3.13 g | C(C)OC(=O)C=1NC=NC1C(C=C)(C)C | C11H16N2O2
reactant | lithium aluminium hydride | 25.0 mmol, 1.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | [5-(1,1-dimethyl-allyl)-3H-imidazol-4-yl]-methanol | 2.56 g, 102% | CC(C=C)(C)C1=C(NC=N1)CO | C9H14N2O
